US05232922
1-Methyl-4-imidazolesulfonyl chloride
1-Methylimidazole (250 g, 3.05 mol) is added dropwise to chlorosulfuric acid (600 ml, 9.03 mol), in such a way that an internal temperature of 30° C. is not exceeded, without aspirating the hydrogen chloride formed. After addition is complete, the reaction mixture is stirred at 150° C. for 6 h. Thionyl chloride (340 ml, 4.66 mol) is added at 60° C. and the mixture is then heated at a bath temperature of 100° C. for 6 h. After cooling to room temperature, the viscous reaction mixture is poured onto sufficient ice such that that the end about 7.5 l of a water-ice mixture remains. The precipitate deposited is filtered off with suction and briefly sucked dry in air. It is then either dried in a thin layer in a vacuum drying oven at 50° C. and 15 torr, or it is preferably taken up using dichloromethane, dried over sodium sulfate and freed from solvent in vacuo. Yield: 176 g (32% of theory) of colorless crystals were obtained (melting point: 89°-90° C.). To remove the isomeric 5-imidazolesulfonic acid formed as a by-product from the mother liquor, the latter is largely concentrated in vacuo at 15 torr in a rotary evaporator. On addition of ethanol, an imidazolesulfonic acid mixture crystallizes out, which can be recrystallized from ethanol.

reactant | 1-Methylimidazole | 3.05 mol, 250 g | CN1C=NC=C1 | C4H6N2
reactant | chlorosulfuric acid | 9.03 mol, 600 ml | S(O)(=O)(=O)Cl | ClHO3S
reactant | hydrogen chloride | Cl | ClH
reactant | Thionyl chloride | 4.66 mol, 340 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-Methyl-4-imidazolesulfonyl chloride | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
